US05332734
10 ml of 1N sodium hydroxide was added dropwise to a solution of 2.28 g of ethyl 9-fluorenyloxyacetate in 40 ml of ethanol, and the mixture was stirred at room temperature for 4 hours. The reaction mixture was concentrated and water was added. After washing with ether, the pH value of the aqueous layer was adjusted with 18% hydrochloric acid to 3 to 4 under ice-cooling, followed by extraction with ether. The organic layer was dried over anhydrous magnesium sulfate, and concentrated to give 1.77 g of 9-fluorenyloxyacetic acid.

reactant | sodium hydroxide | 1N, 10 ml | [OH-].[Na+]
reactant | ethyl 9-fluorenyloxyacetate | 2.28 g | C1=CC=CC=2C3=CC=CC=C3C(C12)OCC(=O)OCC | C17H16O3
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 9-fluorenyloxyacetic acid | 1.77 g | C1=CC=CC=2C3=CC=CC=C3C(C12)OCC(=O)O | C15H12O3
